US07956052B2
To a solution of 2-bromo-3-methoxy-6-nitropyridine (2.0 g, 8.6 mmol) in ethanol (20 mL) was added SnCl2-2H2O (3.9 g, 17 mmol) at room temperature. The reaction was heated at reflux for 2 h. After cooling to room temperature, the reaction mixture was poured into water (50 mL), basified to pH to 8 with saturated NaHCO3 and extracted with ethyl acetate (50×3 mL). The combined organic layers were dried over Na2SO4, evaporated in vacuo and purified by chromatography on silica gel (20% ethyl acetate in petroleum ether) to afford 6-bromo-5-methoxypyridin-2-amine (1.1 g, 65%). 1H-NMR (300 MHz, CDCl3) δ 7.09 (d, J=8.4, 1H), 6.43 (d, J=8.4, 1H), 4.27 (br s, 2H), 3.82 (s, 3H).

reactant | 2-bromo-3-methoxy-6-nitropyridine | 8.6 mmol, 2.0 g | BrC1=NC(=CC=C1OC)[N+](=O)[O-] | C6H5BrN2O3
reactant | water | 50 mL | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 6-bromo-5-methoxypyridin-2-amine | 1.1 g, 65% | BrC1=C(C=CC(=N1)N)OC | C6H7BrN2O
